US07745665B2
1-(3-Methoxymethoxy-phenyl)-2-methylamino-ethanol:
Methylamine hydrochloride (275 mg, 4.08 mmol) and diisopropylethylamine (601 mg, 4.66 mmol) were sequentially added to a solution of 2-(3-methoxymethoxy-phenyl)-oxirane (210 mg, 1.16 mmol) in anhydrous methanol (5 mL). The resulting mixture was maintained at ambient temperature for about 12 hours. Following standard extractive workup with ethyl acetate, the crude product was purified by flash column chromatography on silica gel (1×15 cm, dichloromethane/methanol/NH4OH=90/8/1 elution) to give the title product (49 mg, 20%). 1H NMR (300 MHz, CDCl3) δ 7.26-7.23 (m, 1H), 7.06 (s, 1H), 7.00 (d, 1H, J=7.5 Hz), 6.95 (d, 1H, J=6.9 Hz), 5.18 (s, 2H), 4.71 (d, 1H, J=5.7 Hz), 3.48 (s, 3H), 2.84-2.62 (m, 2H), 2.46 (s, 3H); LC-MS: m/z=212 (MH)+.

reactant | Methylamine hydrochloride | 4.08 mmol, 275 mg | Cl.CN
reactant | diisopropylethylamine | 4.66 mmol, 601 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(3-methoxymethoxy-phenyl)-oxirane | 1.16 mmol, 210 mg | COCOC=1C=C(C=CC1)C1OC1 | C10H12O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
product | 1-(3-Methoxymethoxy-phenyl)-2-methylamino-ethanol | 49 mg, 20% | COCOC=1C=C(C=CC1)C(CNC)O | C11H17NO3
